### PR TITLE
[Merged by Bors] - feat: liminf and limsup add/mul lemmas in Real

### PR DESCRIPTION
**Pull request by D-Thomine**
Lemmas such as `limsup u f + liminf v f ≤ limsup (u + v) f` (and its multiplicative avatars) in (basically) reals. These lemmas had already been done in EReal/ENNReal. The strategy is the same; using reals brings some complexity with the gestion of `IsBoundedUnder`/`IsCoboundedUnder` properties.

Summary of the modifications:
* In [Mathlib/Algebra/Order/Group/DenselyOrdered.lean](https://github.com/leanprover-community/mathlib4/compare/master...D-Thomine/limsup_add_mul#diff-87f5a269787b67b9ec09b3e5d2d10ab4a5cf94fb0ea67087ca8efe323e26d787): proof of `le_mul_of_forall_lt` and `mul_le_of_forall_lt`, as well as their additive versions, which are key for the final results on (R, +).
* In [Mathlib/Algebra/Order/Field/Basic.lean](https://github.com/leanprover-community/mathlib4/compare/master...D-Thomine/limsup_add_mul#diff-38676ab53a1bf62d5eb4d1a87a4c7607f056a6c13968c1683148ddb178863343): proof of `le_mul_of_forall_lt'` and `mul_le_of_forall_lt_of_nonneg`, which are key for the final results on (R+, *).
* In [Mathlib/Order/LiminfLimsup.lean](https://github.com/leanprover-community/mathlib4/compare/master...D-Thomine/limsup_add_mul#diff-15958880e4301dca2ca609bc984fb6192aa21a3013677c7ddb10b4d885927026): four lemmas from `IsCobounded.frequently_le` to `IsCobounded.of_frequently_le` are moved to the beginning of the file, so they can be used within. Four new elementary lemmas about `IsBoundedUnder` which I found quite practical. Four new lemmas about boundedness/coboundedness of sums and products.
* In [Mathlib/Topology/Algebra/Order/LiminfLimsup.lean](https://github.com/leanprover-community/mathlib4/compare/master...D-Thomine/limsup_add_mul#diff-47f3840d4d3e20e25976271e7e13b4542be1cd0c5fd147e72bb1a0736440624b): eight new lemmas about addition/multiplication and limsup/liminfs.

---

Lemma `limsup_mul_le` would be useful in #18172. Pinging @mariainesdff

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Order/Field/Basic.lean [hunk 1]
```diff
@@ -747,6 +747,48 @@ theorem le_of_forall_sub_le (h : ∀ ε > 0, b - ε ≤ a) : b ≤ a := by
...
+  rcases le_or_lt b 0 with hb | hb
+  · obtain ⟨a', ha'⟩ := exists_gt a
+    exact ⟨a', ha', hc.trans_le' (antitone_mul_right hb ha'.le)⟩
+  · obtain ⟨a', ha', hc'⟩ := exists_between ((lt_div_iff₀ hb).2 hc)
+    exact ⟨a', ha', (lt_div_iff₀ hb).1 hc'⟩
+
+private lemma exists_mul_right_lt {a b c : α} (hc : a * b < c) : ∃ b' > b, a * b' < c := by
+  simp_rw [mul_comm a] at hc ⊢; exact exists_mul_left_lt hc
+
+/-- See `le_mul_of_forall_lt` for multiplicative groups.-/
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/Field/Basic.lean:776]: Similarly, I don't think we need this docstring

File: Mathlib/Algebra/Order/Field/Basic.lean [hunk 2]
```diff
@@ -747,6 +747,48 @@ theorem le_of_forall_sub_le (h : ∀ ε > 0, b - ε ≤ a) : b ≤ a := by
...
+lemma le_mul_of_forall_lt' {a b c : α} (h : ∀ a' > a, ∀ b' > b, c ≤ a' * b') : c ≤ a * b := by
+  refine le_of_forall_le_of_dense fun d hd ↦ ?_
+  obtain ⟨a', ha', hd⟩ := exists_mul_left_lt hd
+  obtain ⟨b', hb', hd⟩ := exists_mul_right_lt hd
+  exact (h a' ha' b' hb').trans hd.le
+
+lemma mul_le_of_forall_lt_of_nonneg {a b c : α} (ha : 0 ≤ a) (hc : 0 ≤ c)
+    (h : ∀ a' ∈ Set.Ico 0 a, ∀ b' ∈ Set.Ico 0 b, a' * b' ≤ c) : a * b ≤ c := by
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/Field/Basic.lean:784]: In practice I am expecting the `Ico` spelling to be more of an hindrance than it would help
```suggestion
    (h : ∀ a' ≥ 0, a' ≤ a → ∀ b' ≥ 0, b' ≤ b → a' * b' ≤ c) : a * b ≤ c := by
```

File: Mathlib/Algebra/Order/Group/DenselyOrdered.lean [hunk 3]
```diff
@@ -38,3 +37,55 @@ theorem le_iff_forall_lt_one_mul_le : a ≤ b ↔ ∀ ε < 1, a * ε ≤ b :=
...
+  exact ⟨a', ha', lt_div_iff_mul_lt.1 hc'⟩
+
+@[to_additive]
+private lemma exists_mul_right_lt [CommGroup α] [LT α] [DenselyOrdered α]
+    [CovariantClass α α (· * ·) (· < ·)] {a b c : α} (hc : a * b < c) :
+    ∃ b' > b, a * b' < c := by
+  obtain ⟨a', ha', hc'⟩ := exists_between (lt_div_iff_mul_lt'.2 hc)
+  exact ⟨a', ha', lt_div_iff_mul_lt'.1 hc'⟩
+
+/-- See `le_mul_of_forall_lt'` for multiplication in fields.-/
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/Group/DenselyOrdered.lean:71]: I don't think we need those docstrings

File: Mathlib/Algebra/Order/Field/Basic.lean [hunk 4]
```diff
@@ -747,6 +747,48 @@ theorem le_of_forall_sub_le (h : ∀ ε > 0, b - ε ≤ a) : b ≤ a := by
...
+  · obtain ⟨a', ha'⟩ := exists_gt a
+    exact ⟨a', ha', hc.trans_le' (antitone_mul_right hb ha'.le)⟩
+  · obtain ⟨a', ha', hc'⟩ := exists_between ((lt_div_iff₀ hb).2 hc)
+    exact ⟨a', ha', (lt_div_iff₀ hb).1 hc'⟩
+
+private lemma exists_mul_right_lt {a b c : α} (hc : a * b < c) : ∃ b' > b, a * b' < c := by
+  simp_rw [mul_comm a] at hc ⊢; exact exists_mul_left_lt hc
+
+/-- See `le_mul_of_forall_lt` for multiplicative groups.-/
+lemma le_mul_of_forall_lt' {a b c : α} (h : ∀ a' > a, ∀ b' > b, c ≤ a' * b') : c ≤ a * b := by
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/Field/Basic.lean:777]: The convention is to add `₀` to `MonoidWithZero`/`GroupWithZero`/`Field` lemmas
```suggestion
lemma le_mul_of_forall_lt₀ {a b c : α} (h : ∀ a' > a, ∀ b' > b, c ≤ a' * b') : c ≤ a * b := by
```

File: Mathlib/Order/LiminfLimsup.lean [hunk 5]
```diff
@@ -111,6 +112,22 @@ theorem IsBoundedUnder.comp {l : Filter γ} {q : β → β → Prop} {u : γ →
...
+
+lemma IsBoundedUnder.eventually_ge (h : IsBoundedUnder (· ≥ ·) f u) :
+    ∃ a, ∀ᶠ x in f, a ≤ u x :=
+  IsBoundedUnder.eventually_le (α := αᵒᵈ) h
+
+lemma isBoundedUnder_of_eventually_le {a : α} (h : ∀ᶠ x in f, u x ≤ a) :
+    IsBoundedUnder (· ≤ ·) f u := ⟨a, h⟩
+
+lemma isBoundedUnder_of_eventually_ge {a : α} (h : ∀ᶠ x in f, a ≤ u x) :
+    IsBoundedUnder (· ≥ ·) f u := ⟨a, h⟩
```
Comment (YaelDillies) [inline Mathlib/Order/LiminfLimsup.lean:129]:
```suggestion
lemma IsBoundedUnder.eventually_le (h : IsBoundedUnder (· ≤ ·) f u) : ∃ a, ∀ᶠ x in f, u x ≤ a := h
lemma IsBoundedUnder.eventually_ge (h : IsBoundedUnder (· ≥ ·) f u) : ∃ a, ∀ᶠ x in f, a ≤ u x := h

lemma isBoundedUnder_of_eventually_le {a : α} (h : ∀ᶠ x in f, u x ≤ a) :
    IsBoundedUnder (· ≤ ·) f u := ⟨a, h⟩

lemma isBoundedUnder_of_eventually_ge {a : α} (h : ∀ᶠ x in f, a ≤ u x) :
    IsBoundedUnder (· ≥ ·) f u := ⟨a, h⟩
```
Do you really think we need those four lemmas? They are all true by definition

File: Mathlib/Order/LiminfLimsup.lean [hunk 6]
```diff
@@ -281,6 +298,63 @@ theorem isCobounded_principal (s : Set α) :
...
+/-- For nontrivial filters in linear orders, coboundedness for `≤` implies frequent boundedness
+from below. -/
+lemma IsCobounded.frequently_ge [LinearOrder α] [NeBot f] (cobdd : IsCobounded (· ≤ ·) f) :
+    ∃ l, ∃ᶠ x in f, l ≤ x := by
+  obtain ⟨t, ht⟩ := cobdd
+  by_cases tbot : IsBot t
+  · refine ⟨t, Frequently.of_forall fun r ↦ tbot r⟩
+  obtain ⟨t', ht'⟩ : ∃ t', t' < t := by
+    by_contra!
+    exact tbot this
```
Comment (YaelDillies) [inline Mathlib/Order/LiminfLimsup.lean:310]: This is a common case split, so we have a dedicated lemma for it
```suggestion
  obtain tbot | ⟨t', ht'⟩ := isBot_or_exists_lt t
  · exact ⟨t, .of_forall fun r ↦ tbot r⟩
```
Same below

File: Mathlib/Topology/Algebra/Order/LiminfLimsup.lean [hunk 7]
```diff
@@ -520,6 +520,121 @@ theorem limsup_eq_tendsto_sum_indicator_atTop (R : Type*) [StrictOrderedSemiring
...
+    (h₂ : IsCoboundedUnder (fun x1 x2 ↦ x1 ≤ x2) f u := by isBoundedDefault)
+    (h₃ : IsBoundedUnder (fun x1 x2 ↦ x1 ≤ x2) f v := by isBoundedDefault)
+    (h₄ : IsBoundedUnder (fun x1 x2 ↦ x1 ≥ x2) f v := by isBoundedDefault) :
+    (limsup u f) + liminf v f ≤ limsup (u + v) f := by
+  have h := isCoboundedUnder_le_add h₄ h₂ -- These `have` tactic improve performance.
+  have h' := isBoundedUnder_le_add h₃ h₁
+  rw [add_comm] at h h'
+  exact add_le_of_forall_lt fun a a_u b b_v ↦
+    (le_limsup_iff h h').2 fun c c_ab ↦ ((frequently_lt_of_lt_limsup h₂ a_u).and_eventually
+    (eventually_lt_of_lt_liminf b_v h₄)).mono  fun _ ab_x ↦ c_ab.trans (add_lt_add ab_x.1 ab_x.2)
```
Comment (YaelDillies) [inline Mathlib/Topology/Algebra/Order/LiminfLimsup.lean:539]: Do you think you could rewrite this part of the proof using `filter_upwards`, for readability?

File: Mathlib/Topology/Algebra/Order/LiminfLimsup.lean [hunk 8]
```diff
@@ -520,6 +520,121 @@ theorem limsup_eq_tendsto_sum_indicator_atTop (R : Type*) [StrictOrderedSemiring
...
+lemma liminf_add_le (h₁ : IsBoundedUnder (fun x1 x2 ↦ x1 ≥ x2) f u := by isBoundedDefault)
+    (h₂ : IsBoundedUnder (fun x1 x2 ↦ x1 ≤ x2) f u := by isBoundedDefault)
+    (h₃ : IsBoundedUnder (fun x1 x2 ↦ x1 ≥ x2) f v := by isBoundedDefault)
+    (h₄ : IsCoboundedUnder (fun x1 x2 ↦ x1 ≥ x2) f v := by isBoundedDefault) :
+    liminf (u + v) f ≤ (limsup u f) + liminf v f := by
+  have h := isCoboundedUnder_ge_add h₂ h₄
+  have h' := isBoundedUnder_ge_add h₁ h₃
+  exact le_add_of_forall_lt fun a a_u b b_v ↦
+    (liminf_le_iff h h').2 fun _ c_ab ↦ ((frequently_lt_of_liminf_lt h₄ b_v).and_eventually
+    (eventually_lt_of_limsup_lt a_u h₂)).mono fun _ ab_x ↦ (add_lt_add ab_x.2 ab_x.1).trans c_ab
```
Comment (YaelDillies) [inline Mathlib/Topology/Algebra/Order/LiminfLimsup.lean:576]: Same here

File: Mathlib/Topology/Algebra/Order/LiminfLimsup.lean [hunk 9]
```diff
@@ -520,6 +520,121 @@ theorem limsup_eq_tendsto_sum_indicator_atTop (R : Type*) [StrictOrderedSemiring
...
+  have h' := isBoundedUnder_le_mul_of_nonneg h₁ h₂ h₃ h₄
+  have u0 : 0 ≤ limsup u f := le_limsup_of_frequently_le h₁.frequently h₂
+  have uv : 0 ≤ limsup (u * v) f :=
+    le_limsup_of_frequently_le ((h₁.and h₃).mono fun _ ⟨hu, hv⟩ ↦ mul_nonneg hu hv).frequently h'
+  refine mul_le_of_forall_lt_of_nonneg u0 uv fun a au b bv ↦ (le_limsup_iff h h').2 fun c c_ab ↦ ?_
+  refine ((frequently_lt_of_lt_limsup
+    (isBoundedUnder_of_eventually_ge h₁).isCoboundedUnder_le au.2).and_eventually
+    ((eventually_lt_of_lt_liminf bv.2 (isBoundedUnder_of_eventually_ge h₃)).and
+    (h₁.and h₃))).mono fun x ⟨x_a, ⟨x_b, u0, _⟩⟩ ↦ ?_
+  exact c_ab.trans_le (mul_le_mul x_a.le x_b.le bv.1 u0)
```
Comment (YaelDillies) [inline Mathlib/Topology/Algebra/Order/LiminfLimsup.lean:600]: And here and below 😱

**Review by YaelDillies — COMMENTED** [review]
Thanks for the extra lemmas! I see you have learned the tricks 😉

File: Mathlib/Order/LiminfLimsup.lean (hunk 5 above)
Comment (D-Thomine) [reply Mathlib/Order/LiminfLimsup.lean:129]: > They are all true by definition

Not exactly. This works with `IsBounded`, but `IsBoundedUnder` has an additional layer. For instance, something like

`(hu : f.IsBoundedUnder (· ≤ ·) u); obtain ⟨U, hU⟩ := hu`

yields `hU : ∀ᶠ (x : R) in map u f, (fun x1 x2 ↦ x1 ≤ x2) x U`, while

`(hu : f.IsBoundedUnder (· ≤ ·) u); obtain ⟨U, hU⟩ := hu.eventually_le`

yields `hU : ∀ᶠ (x : α) in f, u x ≤ U`, which is more readily useful. There are a couple instances in this new version of `Mathlib.Order.LiminfLimsup` where this is useful (see e.g. the proof of `isCoboundedUnder_ge_add`).

This is not a big change, but I did not find a simple clean solution, and a basic lemma with a dot notation felt intuitive enough.

File: Mathlib/Algebra/Order/Field/Basic.lean (hunk 4 above)
Comment (D-Thomine) [reply Mathlib/Algebra/Order/Field/Basic.lean:777]: Thanks! Done.

File: Mathlib/Algebra/Order/Group/DenselyOrdered.lean (hunk 3 above)
Comment (D-Thomine) [reply Mathlib/Algebra/Order/Group/DenselyOrdered.lean:71]: Docstrings removed, thanks.

File: Mathlib/Algebra/Order/Field/Basic.lean (hunk 1 above)
Comment (D-Thomine) [reply Mathlib/Algebra/Order/Field/Basic.lean:776]: Docstring removed, thanks.

File: Mathlib/Order/LiminfLimsup.lean (hunk 6 above)
Comment (D-Thomine) [reply Mathlib/Order/LiminfLimsup.lean:310]: Nice trick. I did some minor additional golfing in the same area (`isBoundedUnder_le_sum`, `isBoundedUnder_ge_sum`).

File: Mathlib/Topology/Algebra/Order/LiminfLimsup.lean (hunk 7 above)
Comment (D-Thomine) [reply Mathlib/Topology/Algebra/Order/LiminfLimsup.lean:539]: I think the main problem is that `filter_upwards` works with eventual goals, and we would like to have it work with frequent goals when you have at most one frequent hypothesis (something I discussed yesterday with Patrick Massot).

In the meantime, it will just be tinkering; I don't see a nice way to use `filter_upwards` (we need to isolate the eventual part of the proof, but then `filter_upwards` already applies `.mono`... Doable, but not sure it would be more readable).

As a compromise, I broke up the proof term using `refine`s, which makes it easier to understand in tactical state, and easier to modify if such an improvement of `filter_upwards` is done.

File: Mathlib/Topology/Algebra/Order/LiminfLimsup.lean (hunk 8 above)
Comment (D-Thomine) [reply Mathlib/Topology/Algebra/Order/LiminfLimsup.lean:576]: Same issue.

File: Mathlib/Topology/Algebra/Order/LiminfLimsup.lean (hunk 9 above)
Comment (D-Thomine) [reply Mathlib/Topology/Algebra/Order/LiminfLimsup.lean:600]: This one was particularly nasty... Same issue as above.

File: Mathlib/Algebra/Order/Field/Basic.lean (hunk 2 above)
Comment (D-Thomine) [reply Mathlib/Algebra/Order/Field/Basic.lean]: It doesn't change much in this case, but I see how it might be useful. Done.

**Review by YaelDillies — APPROVED** [review]
maintainer merge

apart from that. Thanks!

**Comment by sgouezel** [comment]
bors r+
Thanks!
